US05034404
To a mixture of 0.26g of 1-(6-chloro-3-pyridylmethyl)-3,3-dimethyl-2-nitroguanidine (Compound No. 6) and 3ml of dry THF was added 0.08g of 60% sodium hydride (in mineral oil) in a water bath of 20° C., followed by stirring for 30 minutes. A solution of 0.26g of acetic formic anhydride in 0.5ml of THF was added to the reaction mixture in one minute, and then stirred for 12 hours after the bath was removed. After adding 0.5ml of acetic: acid, the reaction mixture was concentrated. The residue was purified by a column chromatography [developing solvent: dichloromethanemethanol (30:1)] to obtain 0.10g of 1-(6-chloro-3-pyridylmethyl)-1-formyl-3, 3-dimethyl-2-nitroguanidine (Compound No. 22) as a syrup.

reactant | 1-(6-chloro-3-pyridylmethyl)-3,3-dimethyl-2-nitroguanidine | 0.26g | ClC1=CC=C(C=N1)CNC(=N[N+](=O)[O-])N(C)C | C9H12ClN5O2
reactant | sodium hydride | 0.08g | [H-].[Na+]
reactant | acetic formic anhydride | 0.26g | C(=O)OC(C)=O | C3H4O3
solvent | THF | 0.5ml | C1CCOC1 | C4H8O
solvent | THF | 3ml | C1CCOC1 | C4H8O
product | 1-(6-chloro-3-pyridylmethyl)-1-formyl-3, 3-dimethyl-2-nitroguanidine | 0.10g | ClC1=CC=C(C=N1)CN(C(=N[N+](=O)[O-])N(C)C)C=O | C10H12ClN5O3
